US04695575
A mixture of 4 parts of 2-amino-N-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]methyl]-1-piperidinyl]ethyl]benzamide, 20 parts of acetic acid anhydride and 40 parts of water was stirred and heated overnight at 120° C. After cooling, ice water was added. The whole was treated with ammonium hydroxide. The product was extracted with dichloromethane. The extract was dried, filtered and evaporated. The residue was converted into the (E)-2-butenedioate salt in ethanol. The salt was filtered off and dried, yielding 3.7 parts (72%) of 3-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]methyl]-1-piperidinyl]ethyl]-2-methyl-4(3H)-quinazolinone (E)-2-butenedioate (1:1); mp. 210.3° C. (481).

reactant | 2-amino-N-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]methyl]-1-piperidinyl]ethyl]benzamide | NC1=C(C(=O)NCCN2CCC(CC2)CC2=NC3=C(N2CC2=CC=C(C=C2)F)C=CC=C3)C=CC=C1 | C29H32FN5O
reactant | acetic acid anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | water | O | H2O
product | 3-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]methyl]-1-piperidinyl]ethyl]-2-methyl-4(3H)-quinazolinone (E)-2-butenedioate | 72% | C(\C=C\C(=O)O)(=O)O.FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)CC2CCN(CC2)CCN2C(=NC1=CC=CC=C1C2=O)C | InChI=1S/C31H32FN5O.C4H4O4/c1-22-33-27-7-3-2-6-26(27)31(38)36(22)19-18-35-16-14-23(15-17-35)20-30-34-28-8-4-5-9-29(28)37(30)21-24-10-12-25(32)13-11-24;5-3(6)1-2-4(7)8/h2-13,23H,14-21H2,1H3;1-2H,(H,5,6)(H,7,8)/b;2-1+
